US05354866
A. L-tert-Leucine Methyl ester Hydrochloride
To anhydrous methanol (15 mL) at -20° C. under nitrogen was added thionyl chloride (4 mL) dropwise. The solution was allowed to warm to room temperature and then tert-Leucine (4.00 g) was added. The reaction mixture was warmed at 50° C. for 5 hours, re-cooled to -20° C., and then additional thionyl chloride (3 mL) was added dropwise. The reaction mixture was heated an additional 2.5 hours at 50° C. and then concentrated under reduced pressure and chased twice with methanol (15 mL) to afford an amorphous solid. The solid was triturated with ether to afford the title compound in 92% yield. The 300 MHz 1H NMR spectrum was found to be consistent with the proposed structure. MS (DCI/NH3) m/e 146 (M+H)+.

reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | tert-Leucine | 4.00 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 mL | CO | CH4O
product | L-tert-Leucine Methyl ester Hydrochloride | 92% yield | Cl.COC([C@@H](N)C(C)(C)C)=O | InChI=1S/C7H15NO2.ClH/c1-7(2,3)5(8)6(9)10-4;/h5H,8H2,1-4H3;1H/t5-;/m1./s1
